US06960586B2
Production of methyl 1-bromomethyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthoate
Methyl 1-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthoate (20.7 g) was suspended in carbon tetrachloride (400 mL) and N-bromosuccinimide (7.5 g) and 2,2′-azobisisobutyronitrile (0.58 g) were added. The reaction mixture was heated under reflux for 5 hrs. and concentrated. The residue was diluted with saturated aqueous sodium hydrogen carbonate and extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give a crude title compound (25.7 g) as a brown amorphous solid.

reactant | Methyl 1-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthoate | 20.7 g | CC1=C(C=CC2=CC(=CC=C12)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C36H28N2O3
reactant | N-bromosuccinimide | 7.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 400 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobisisobutyronitrile | 0.58 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | methyl 1-bromomethyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthoate | 25.7 g | BrCC1=C(C=CC2=CC(=CC=C12)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C36H27BrN2O3
